US07144894B2
5-Formyl-2-methyl-1-t-butyloxycarbonylindole.
A solution of 5-bromo-2-methyl-1-t-butyloxycarbonylindole (1.55 g, 5.0 mmol) and DMF (0.39 mL, 5.0 mmol) in anhydrous THF (15 mL) was cooled with stirring to −78° C. A solution of t-butyl lithium in heptane (1.7M, 7.35 mL, 12.5 mmol) was added dropwise over 5 min. The reaction mixture was then stirred for 1 h. HOAc (1 mL) was added and the reaction mixture was diluted with EtOAc (50 mL). The organic mix was washed three times with a 10% KHSO4 solution (10 mL), once with a saturated NaHCO3 solution and once with brine. The organic solution was dried over MgSO4, filtered and concentrated in vacuo. Column chromatography (EtOAc:hexane::95:5) afforded three products after removal of solvent in vacuo: (1) 1,5-di-(t-butyloxycarbonyl)-2-methylindole, an oil (89 mg, 6% yield, Rf=0.8): 1H NMR (CDCl3, 300 MHz): 8.10 (d, 1H, J=8), 8.09 (s, 1H), 7.87 (d, 1H, J=8), 6.37 (s, 1H), 2.60 (s, 3H), 1.69 (s, 9H), 1.62 (s, 9H); (2) the title product, a light orange solid (726 mg, 56% yield, Rf=0.5): 1H NMR (CDCl3, 300 MHz): 10.0 (s, 1H0, 8.24 (d, 1H, J=8), 7.97 (d, 1H, J=2), 7.77 (dd, 1H, J=8, 2), 6.44 (s, 1H), 2.62 (d, 3H, J=1), 1.70 (s, 9H); (3) 5-formyl-2-methylindole, a light orange solid (139 mg, 17% yield, Rf=0.3): 1H NMR (CDCl3, 300 MHz): 10.0 (s, 1H), 8.20 (br s, 1H), 7.71 (d, 1H, J=1), 7.68 (d, 1H, J=8), 7.37 (d, 1H, J=8), 6.37 (t, 1H, J=1), 2.48 (d, 3H, J=1); MS (ES+): 160 (C10H10NO, M++H).

reactant | 5-bromo-2-methyl-1-t-butyloxycarbonylindole | 5.0 mmol, 1.55 g | BrC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C | C14H16BrNO2
reactant | DMF | 5.0 mmol, 0.39 mL | CN(C)C=O | C3H7NO
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | heptane | 12.5 mmol, 1.7M, 7.35 mL | CCCCCCC | C7H16
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | 5-Formyl-2-methyl-1-t-butyloxycarbonylindole | 6% yield | C(=O)C=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C | C15H17NO3
